US06239151B1
A solution of 0.510 g of 2(R)-[4-cyclopentyl-1(S)-(tert-butoxycarbonyl)-butyl]-2′-isobutyl-4-methylvalerohydrazide in 10 ml of dimethylformamide was treated in sequence with 0.308 g of 2-(1-imidazoyl)acetic acid hydrogen bromide, 0.172 g of N-ethylmorpholine and 0.286 g of 1-ethyl-3-(3-dimethylaminopropyl)-carbodiimide hydrochloride and then stirred overnight at room temperature. The mixture was diluted with diethyl ether and washed with water and saturated aqueous sodium chloride solution. Drying over anhydrous magnesium sulphate and evaporation gave a residue which was purified by column chromatography on silica gel, using ethyl acetate/hexane (1:3) and then dichloromethane/methanol (3:1) for the elution, to give 0.255 g of 2(R)-[4-cyclopentyl-1(S)-(tert-butoxycarbonyl)-butyl]-2′-isobutyl-2′-[2-(1-imidazoyl)acetyl]-4-methylvalerohydrazide in the form of a yellow oil.

reactant | 2(R)-[4-cyclopentyl-1(S)-(tert-butoxycarbonyl)-butyl]-2′-isobutyl-4-methylvalerohydrazide | 0.510 g | C1(CCCC1)CCC[C@H](C(=O)OC(C)(C)C)[C@H](C(=O)NNCC(C)C)CC(C)C | C24H46N2O3
reactant | 2-(1-imidazoyl)acetic acid hydrogen bromide | 0.308 g | Br.N1(C=NC=C1)C(=O)CC(=O)O
reactant | N-ethylmorpholine | 0.172 g | C(C)N1CCOCC1 | C6H13NO
reactant | 1-ethyl-3-(3-dimethylaminopropyl)-carbodiimide hydrochloride | 0.286 g | Cl.C(C)N=C=NCCCN(C)C
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | diethyl ether | C(C)OCC | C4H10O
product | 2(R)-[4-cyclopentyl-1(S)-(tert-butoxycarbonyl)-butyl]-2′-isobutyl-2′-[2-(1-imidazoyl)acetyl]-4-methylvalerohydrazide | 0.255 g | C1(CCCC1)CCC[C@H](C(=O)OC(C)(C)C)[C@H](C(=O)NN(C(CC(=O)N1C=NC=C1)=O)CC(C)C)CC(C)C | C30H50N4O5
